US07501430B2
To a mixture of 2-aminothiazole (3.29 g, 32.9 mmol) and 2-bromo-3′-cyano-acetophenone (7.37 g, 32.9 mmol) was added absolute ethanol (250 mL). The reaction was allowed to reflux with vigorous stirring for 20 hours. The reaction mixture was reduced to half its original volume in vacuo. The remaining suspension was poured onto ice-water (200 mL) and the resulting mixture was basified by addition of ammonium hydroxide solution (30%, 100 mL). Product was collected by filtration and washed with water (50 mL), dried in a vacuum oven at 50° C. to provide 6-(3-cyanophenyl)-imidazo[2,1-b]thiazole (6.0 g, 81%). It was used with out further purification. LCMS: 226 [M+H].

reactant | 2-aminothiazole | 32.9 mmol, 3.29 g | NC=1SC=CN1 | C3H4N2S
reactant | 2-bromo-3′-cyano-acetophenone | 32.9 mmol, 7.37 g | BrCC(=O)C1=CC(=CC=C1)C#N | C9H6BrNO
reactant | ammonium hydroxide | 100 mL | [OH-].[NH4+]
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 6-(3-cyanophenyl)-imidazo[2,1-b]thiazole | 6.0 g, 81% | C(#N)C=1C=C(C=CC1)C=1N=C2SC=CN2C1 | C12H7N3S
